US04717725
5H-Indeno[1,2-b]pyridin-5-one (28)
See general oxidation method of Sprinzak, J. Am. Chem. Soc., 80 (1958) 5449. 4-Azafluorene (5.0 g, 30 mmol) was dissolved in 50 mL anhydrous pyridine containing in solution 2 mL Triton B solution (prepared by evaporating 5 mL of 40% Triton B in methanol (Aldrich Chemical, Inc.) and 5 mL pyridine with heat and reduced pressure followed by q.s. to 10 mL with pyridine). Then air was continuously bubbled through the solution with stirring. An addition of 2 mL Triton B solution was made twice more at two-hour intervals. After six hours the reaction mixture was evaporated to dryness. The residue was triturated in 30 mL water and extracted four times with ethyl acetate (total volume 200 mL). The combined ethyl acetate extracts were dried over anhydrous sodium sulfate. After filtration and evaporation, the residue was chromatographed (silica gel and chloroform) to yield after evaporation of the solvent 4.5 g (83%) of (28). m.p. 132°-136° C. (reported 142° C.).

reactant | 4-Azafluorene | 30 mmol, 5.0 g | C1=CC=NC=2C3=CC=CC=C3CC12 | C12H9N
reactant | methanol | CO | CH4O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5H-Indeno[1,2-b]pyridin-5-one | N1=C2C(=CC=C1)C(C1=CC=CC=C12)=O | C12H7NO
